US07160875B2
c) N-[(S)-5-(2,2-Dimethyl-propionyl)-1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide
In an analogous manner to that described in Example 20 d), the condensation of (S)-3-amino-5-(2,2-dimethyl-propionyl)-1-methyl-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one hydrochloride and N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid yielded the title compound as a white foam;

reactant | (S)-3-amino-5-(2,2-dimethyl-propionyl)-1-methyl-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one hydrochloride | Cl.N[C@H]1CN(C2=C(N(C1=O)C)C=CC=C2)C(C(C)(C)C)=O
reactant | N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid | FC(CNC(CC(=O)O)=O)(C(F)(F)F)F | C6H6F5NO3
product | N-[(S)-5-(2,2-Dimethyl-propionyl)-1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | CC(C(=O)N1C2=C(N(C([C@H](C1)NC(CC(=O)NCC(C(F)(F)F)(F)F)=O)=O)C)C=CC=C2)(C)C | C21H25F5N4O4
